US07384934B2
(S)-3-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-propan-1-ol
Using the method of Example 351, using (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene and 3-bromo-propan-1-ol, 15 hours at reflux after the addition of alcohol, and two purifications by flash chromatography: the first, eluting with a gradient of a 3% solution of methanol in ethyl acetate (0-100%), and then with a gradient of methanol: ethyl acetate (3%-5% methanol in ethyl acetate); and the second, eluting with a gradient of solutions of 2M ammonia in methanol, in ethyl acetate (4%-5% over 40 minutes), gives the title compound: mass spectrum (APCI, m/e): 470 (M+1); NMR (1H, 300 MHz, DMSO-d6): δ 8.47 (s, 1H), 6.96-6.81 (m, 3H), 6.70 (m, 1H), 4.42 (m, 1H), 3.54-3.37 (m, 6H), 3.37-3.18 (m, 2H), 3.15 (s, 3H), 2.68 (m, 2H), 2.58-2.45 (m, 1H), 2.35 (m, 2H), 1.68 (m, 2H), 1.55 (m, 2H).

reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
reactant | 3-bromo-propan-1-ol | BrCCCO | C3H7BrO
product | (S)-3-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-propan-1-ol | COCC[C@@H]1N(CCN(C1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCCO | C21H26F3N5O2S
